Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
intraparenchymal hemorrhage s/p tPA
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ F w PMHx of HTN who presents to 
___
ED from ___ after ___ revealed large IPH s/p tPA
administration.
Ms. ___ was in her usual state of health on the day of
presentation. She was at lunch with her daughters when at
3:30PM family noted sudden onset of confusion and garbled 
speech.
She was taken to ___ were vitals on presentation
were significant for BP of 195/80. Neurological examination was
as follows: "The patient is not following commands. She will
intermittently speak but when she does speak she has garbled
speech. She is able to hold her hands up but does not understand
to grasp. She does not understand to move either of her lower
extremities. She is not answering questions. She is looking
around the room in all directions." An NIHSS was 12. 
She was given IV labetolol with improvement in her BP. A ___
was done (images not available) that reported no acute
intracranial process. Records then document IV tPA started at
16:45. Family felt that she had an initial improvement after
receiving tPA.
At 16:46 she was taken for CTA. After returning from that scan,
her clinical status quickly worsened, as she became unresponsive
with a spike in blood pressure. She required multiple doses of 
IV
labetolol for control and was intubated. A subsequent ___ at
20:11 showed large intracranial hemorrhage.
She was then med-flighted to ___ ED for further treatment.
During transport she required a nicardipine drip for blood
pressure control.
On arrival to ___ ED she was intubated, not requiring any
sedation. Her BP was <140 off nicardipine drip. She was given
Keppra 1g IV, aminocaproic acid, and cryoprecipitate.
Neurosurgery was also consulted and did not recommend any
surgical intervention.
The family then arrived at bedside and an extensive discussion
was had regarding findings and prognosis. The family was not get
ready to proceed with extubation, though they did unanimously
agree that Ms. ___ be DNR.

*Update: around 10:30PM, sBP drop to ___ -> 40s. No 
resuscitation
performed*
 
Past Medical History:
hypertension
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION EXAM:
VS T97.5 HR98 BP113/58 RR14 Sat99%Intubated
GEN - intubated
HEENT - NC/AT, MMM
CV - RRR
RESP - on vent, no over-breathing
ABD - soft, NT, ND
EXTR - oozing from PIV sites

NEUROLOGICAL EXAMINATION
MS - no eye opening, no commands, no purposeful movements
CN - pupils are 6mm and NR, no VOR, no corneals, no gag, is not
triggering on the vent, weak cough
SENSORIMOTOR - spontaneous movements of the feet, non-purposeful
and not clearly posturing; no response of BUEs to nox, though
there is movement in the B/L feet; stereotyped movement to nox 
in
BLEs, though appears more complex than triple flexion
REFLEXES - 3+ in BUEs with B/L pectoral jerks; 2+ at patellas; L
ankle with ___ beats of clonus; L toes are up; R toes are down

DISCHARGE EXAM:
deceased
 
Pertinent Results:
ADMISSION LABS:

___ 07:19PM BLOOD WBC-9.6 RBC-3.99 Hgb-12.5 Hct-39.0 MCV-98 
MCH-31.3 MCHC-32.1 RDW-14.9 RDWSD-53.5* Plt ___
___ 07:19PM BLOOD ___ PTT-20.4* ___
___ 07:19PM BLOOD ___ 02:21AM BLOOD Glucose-130* UreaN-32* Creat-1.5* Na-138 
K-4.1 Cl-103 HC___-21* AnGap-18
___ 02:21AM BLOOD ALT-13 AST-25 LD(LDH)-261* CK(CPK)-40 
AlkPhos-51 TotBili-1.0
___ 02:21AM BLOOD Albumin-3.4* Calcium-9.1 Phos-4.9* Mg-2.0
___ 07:19PM BLOOD Lipase-37
___ 02:21AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:19PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
OSH Imaging, not formally reviewed by radiology and no reports 
available:
___ - ___ @ 15:52
___ CTA - ___ @ 16:46
___ - ___ @ 17:38

___ Imaging:
___ - ___ @ 20:11
Massive left intraparenchymal hemorrhage measuring at least 11.1 
x 8.3 x 8.3cm with significant mass effect with transtentorial 
and transfalcine herniation. Complete effacement of the left 
lateral ventricle with dilatation of the right temporal horn. 
Extensive bilateral subarachnoid hemorrhage.
 
Brief Hospital Course:
___ was transferred from ___ with a large 
intraparenchymal hemorrhage. On arrival at ___ she was noted 
to have a near complete lack of brainstem reflexes aside from a 
cough. She received cryoprecipitate without improvement. She was 
admitted to the ICU and no further escalation of care was 
performed. Her exam progressed to the point that she had no 
brainstem reflexes.  After family discussion regarding the 
irreversible and catastrophic nature of her hemorrhage, her 
family chose to pursue comfort measures. She was terminally 
extubated and died shortly thereafter. 
 
Medications on Admission:
- atenolol 50mg qD
- MVI
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
intraparenchymal hemorrhage
stroke
 
Discharge Condition:
deceased
 
Discharge Instructions:
none
 
Followup Instructions:
___